US06251926B1
Lithium hydroxide monohydrate (143 mg) was added to a solution of ethyl E-8-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]benzyloxyimino]-8-phenyloctanoate (618 mg) in tetrahydrofuran (6 ml)-water (4 ml)-ethanol (4 ml) and stirred at room temperature for 4 hours. 1N hydrochloric acid (3.5 ml) was added to the reaction mixture and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The residue was recrystallized from ethyl acetate-hexane to obtain E-8-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]benzyloxyimino]-8-phenyloctanoic acid (523 mg, yield 90%) as colorless crystals. m.p. 75-77° C.

reactant | Lithium hydroxide monohydrate | 143 mg | O.[OH-].[Li+]
reactant | ethyl E-8-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]benzyloxyimino]-8-phenyloctanoate | 618 mg | O1C(=CC=C1)C=1OC(=C(N1)COC1=CC=C(CO\N=C(/CCCCCCC(=O)OCC)\C2=CC=CC=C2)C=C1)C | C32H36N2O6
reactant | water | 4 ml | O | H2O
reactant | hydrochloric acid | 1N, 3.5 ml | Cl | ClH
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | E-8-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]benzyloxyimino]-8-phenyloctanoic acid | 523 mg, yield 90% | O1C(=CC=C1)C=1OC(=C(N1)COC1=CC=C(CO\N=C(/CCCCCCC(=O)O)\C2=CC=CC=C2)C=C1)C | C30H32N2O6
